US07163937B2
The material from above benzyl (S)-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (1.0 g) was dissolved in 33% HBr/AcOH (5 mL) at rt. The solution was stirred for 30 min before Et2O was added. This resulted in a precipitate which was isolated. The solid was dissolved in EtOAc and was washed with sat. Na2CO3 solution. The organic phase was dried (MgSO4), filtered, and concentrated to afford (S)-3-amino-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one (250 mg). MS found: (M+H)+=388.4.

reactant | benzyl (S)-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 1.0 g | C(C)(C)(C)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C27H43N3O5S
reactant | Et2O | CCOCC | C4H10O
solvent | HBr AcOH | 5 mL | Br.CC(=O)O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-amino-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one | 250 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CS(=O)(=O)C(C)(C)C)=O | C19H37N3O3S
